US07955664B2
1.30 g (4.39 mmol) of 2-(6-fluoro-3-pentylchroman-7-yl)propane-1,3-diol and 900 mg (4.59 mmol) of 6,8-difluoro-2H-chromene-3-carbaldehyde are dissolved in 50 ml of dichloromethane and heated under reflux on a water separator for 5 h in the presence of 50 mg of p-toluenesulfonic acid. The solution is subsequently washed with sat. sodium hydrogencarbonate soln. and dried over sodium sulfate. The solvent is removed in vacuo, and the residue is recrystallised from heptane/toluene, giving 6,8-difluoro-3-[5-(6-fluoro-3-pentylchroman-7-yl)-1,3-dioxan-2-yl]-2H-chromene (trans:cis=80:20) as a colourless solid.

reactant | 2-(6-fluoro-3-pentylchroman-7-yl)propane-1,3-diol | 4.39 mmol, 1.30 g | FC=1C=C2CC(COC2=CC1C(CO)CO)CCCCC | C17H25FO3
reactant | 6,8-difluoro-2H-chromene-3-carbaldehyde | 4.59 mmol, 900 mg | FC=1C=C2C=C(COC2=C(C1)F)C=O | C10H6F2O2
reactant | water | O | H2O
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6,8-difluoro-3-[5-(6-fluoro-3-pentylchroman-7-yl)-1,3-dioxan-2-yl]-2H-chromene | FC=1C=C2C=C(COC2=C(C1)F)C1OCC(CO1)C1=C(C=C2CC(COC2=C1)CCCCC)F | C27H29F3O4
